US08445501B2
4-{[4-(5-Butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-piperidine-1-carboxylic acid ethyl ester
Starting from 4-(5-butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide (example A179) and ethyl chloroformate the title compound was obtained as colorless solid.

reactant | 4-(5-butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCCC | C23H27N5O4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-{[4-(5-Butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCCC | C26H31N5O6
